US07893257B2
(4-Cyclopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone bis-hydrochloride salt
A 100-L glass-lined reactor was charged with toluene (45.00 kg) and stirred at ˜20-25° C. To the stirring toluene was added 4-(4-morpholinylmethyl)benzoic acid hydrochloride (6.50 kg, 93.5%, 24.04 mol), 1-hydroxybenzotriazole monohydrate (2.32 kg, 15.13 mol), 1-cyclopropylpiperazine (3.50 kg, 27.07 mol) and acetonitrile (9.00 kg). The resulting off-white slurry was stirred under N2 at ˜20-25° C. for 40 minutes. N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (3.50 kg, 27.07 mol) was added, followed by an acetonitrile (1.20 kg) rinse. After the addition, the reaction mixture was stirred at ˜20-25° C. overnight. Water (32.50 kg) and aqueous saturated sodium carbonate (19.50 L) were then added to the stirring suspension. The suspension was stirred for an additional 30 minutes. The resulting biphasic solution was allowed to settle. The aqueous phase was discarded and the organic phase was washed with a 50% brine solution [water (19.50 L)/brine (19.50 L)]. To the stirred organic phase was then added anhydrous sodium sulfate (2.86 kg) and the resulting mixture was stirred at ˜20-25° C. for 1.5 hours. The solid sodium sulfate was filtered off and the filter cake was washed with acetonitrile (15.30 kg). The filtrate was transferred to a clean 100-L glass-lined reactor and stirred at ˜20-25° C. Water (0.47 kg) and 5/6N HCl in 2-propanol were added to precipitate the title compound as the corresponding bis-hydrochloride salt as a solid. The solid was filtered, washed with acetonitrile (10.2 kg) and dried (60 Torr, ˜40-45° C.) to a constant weight to yield the title compound as a white solid.

reactant | 4-(4-morpholinylmethyl)benzoic acid hydrochloride | 24.04 mol, 6.50 kg | Cl.N1(CCOCC1)CC1=CC=C(C(=O)O)C=C1
reactant | 1-hydroxybenzotriazole monohydrate | 15.13 mol, 2.32 kg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-cyclopropylpiperazine | 27.07 mol, 3.50 kg | C1(CC1)N1CCNCC1 | C7H14N2
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 27.07 mol, 3.50 kg | Cl.CN(CCCN=C=NCC)C
solvent | acetonitrile | 1.20 kg | C(C)#N | C2H3N
solvent | acetonitrile | 9.00 kg | C(C)#N | C2H3N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 45.00 kg | C1(=CC=CC=C1)C | C7H8
product | (4-Cyclopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone bis-hydrochloride salt | Cl.Cl.C1(CC1)N1CCN(CC1)C(=O)C1=CC=C(C=C1)CN1CCOCC1 | InChI=1S/C19H27N3O2.2ClH/c23-19(22-9-7-21(8-10-22)18-5-6-18)17-3-1-16(2-4-17)15-20-11-13-24-14-12-20;;/h1-4,18H,5-15H2;2*1H
